US07816522B2
(168b) 3-{3-[(4-cyanophenylamino)-(5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxin-6-yl)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}thiophene-2-carboxylic acid methyl ester
To a solution of 2 g of [2-(4-cyanophenylimino)-2-(5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxin-6-yl)-1-methylsulfanylethylidene]carbamic acid methyl ester in 24 ml of DMF there were added 720 mg of 3-hydrazinothiophene-2-carboxylic acid methyl ester and 1.2 ml of triethylamine, and the mixture was stirred overnight at 85° C. under a nitrogen atmosphere.

reactant | [2-(4-cyanophenylimino)-2-(5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxin-6-yl)-1-methylsulfanylethylidene]carbamic acid methyl ester | 2 g | COC(N=C(C(C1=C(C2=C(OCCO2)C(=C1)OC)F)=NC1=CC=C(C=C1)C#N)SC)=O | C21H18FN3O5S
reactant | 3-hydrazinothiophene-2-carboxylic acid methyl ester | 720 mg | COC(=O)C=1SC=CC1NN | C6H8N2O2S
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 24 ml | CN(C)C=O | C3H7NO
product | 3-{3-[(4-cyanophenylamino)-(5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxin-6-yl)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC=CC1N1N=C(NC1=O)C(C1=C(C2=C(OCCO2)C(=C1)OC)F)NC1=CC=C(C=C1)C#N | C25H20FN5O6S
